US04686217
3-(Methyl) 5-(1-methylethyl) 4-(2,3-dichlorophenyl)-2-(fluoromethyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylate
2,3-Dichlorobenzaldehyde (1.75 g, 10 mmoles), methyl 4-fluoro-3-oxobutanoate (1.34 g, 10 mmoles) and 1-methylethyl 3-amino-2-butenoate (1.43 g, 10 mmoles) were heated with stirring at 90° for 2.5 hours. The reaction mixture was dissolved in ethyl acetate and chromatographed on silica eluting with petroleum ether (60°-80°)/ethyl acetate mixtures. Pure fractions were combined and evaporated to dryness. The title compound (1.6 g) was obtained by crystallisation from 2-propanol. mp 148°-9°.

reactant | 2,3-Dichlorobenzaldehyde | 10 mmoles, 1.75 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | methyl 4-fluoro-3-oxobutanoate | 10 mmoles, 1.34 g | FCC(CC(=O)OC)=O | C5H7FO3
reactant | 1-methylethyl 3-amino-2-butenoate | 10 mmoles, 1.43 g | NC(=CC(=O)OC(C)C)C | C7H13NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Methyl) 5-(1-methylethyl) 4-(2,3-dichlorophenyl)-2-(fluoromethyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylate | 1.6 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC(C)C)C)CF)C(=O)OC | C19H20Cl2FNO4
